* C:\Users\lthw148\Documents\GitHub\ltspice-psoc\Draft1.asc
V1 N004 0 SINE(5 5 1000) AC 1
C1 vout N004 318.3n
R1 vout 0 1k
XU1 N003 N001 5V 0 N002 LT1001
V§5V 5V 0 5
R2 N002 N001 1k
R3 N001 0 1k
V2 N003 0 0.5
.tran 0 1s 0 0.001
.lib LTC.lib
.backanno
.end
